US06864279B2
Scheme 2 provides an alternative synthesis of C-3 substituted 4-hydroxycoumarins when R1 is aryl groups. 4-hydroxycoumarin and an aromatic aldehyde can be heated in a mixture of triethylamine and formic acid (2:5 molar ratio) to give 3-benzyl-4-hydroxycoumarin, which was in turn treated with 2.2 eq. of BuLi and quenched with carbon dioxide to give coumarin substituted phenyl-acetic acid. Corresponding esters can be obtained by treating the acid with various alcohols in the presence of concentrated sulfuric acid.

reactant | 4-hydroxycoumarin | OC1=CC(OC2=CC=CC=C12)=O | C9H6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | formic acid | 5 molar | C(=O)O | CH2O2
product | 3-benzyl-4-hydroxycoumarin | C(C1=CC=CC=C1)C=1C(OC2=CC=CC=C2C1O)=O | C16H12O3
